US04052484
Production of 1-methyl-1-oxophospholanyl dimethyl phosphine oxide
116 g of 1-methyl-1-oxophospholine and 6 g of tert.-butyl perpivalate in dibutyl phthalate are added dropwise with stirring under an oxygen-free atmosphere to 234 g of dimethyl phosphine oxide. The reaction temperature is 75° to 80° C. The starting materials are then distilled off. The residue consists of 185 g of 1-methyl-1-oxophospholanyl dimethyl phosphine oxide.

reactant | 1-methyl-1-oxophospholine | 116 g | CP1(C=CCC1)=O | C5H9OP
reactant | dimethyl phosphine oxide | 234 g | CP(C)=O | C2H7OP
solvent | dibutyl phthalate | C(C=1C(C(=O)OCCCC)=CC=CC1)(=O)OCCCC | C16H22O4
product | 1-methyl-1-oxophospholanyl dimethyl phosphine oxide | CP1(C(CCC1)P(C)(C)=O)=O | C7H16O2P2
